US04757070
5-morpholino-methyl-beta-carboline-3-carboxylic acid ethyl ester
Under nitrogen, a solution of 0.19 g of 9-acetyl-5-bromoethyl-beta-carboline-3-carboxylic acid ethyl ester in 5 ml of ethanol is mixed with 1 ml of morpholine and stirred overnight at room temperature. After addition of water the crystallizate is suctioned off and recrystallized from ethanol/diethylether. 0.11 g (64%) is obtained. Melting point 285° C.

reactant | 9-acetyl-5-bromoethyl-beta-carboline-3-carboxylic acid ethyl ester | 0.19 g | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC(=C3C2C1)CCBr)C(C)=O | C18H17BrN2O3
reactant | morpholine | 1 ml | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 5-morpholino-methyl-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(C=2NC3=CC=CC(=C3C2C1)N1CCOCC1)C | C19H21N3O3
